US09126935B2
To 4-(2-fluoro-4-nitrophenoxy)-7-methoxyquinoline (0.900 g, 2.9 mmol) in THF was added methanol (53 ml, 1297 mmol) and 1N HCl (8.6 ml, 8.6 mmol). The resulting mixture was cooled to 0° C. Iron (2.2 g, 40 mmol) was added, and the reaction was allowed to stir at RT for 3.5 hours. The reaction mixture was then diluted with MeOH, filtered through a pad of Celite, and concentrated in vacuo. The residue was then diluted with sat. NaHCO3 (aq) and CH2Cl2. The aqueous layer was separated and extracted three times with CH2Cl2. The combined organic extracts were dried over sodium sulfate and filtered through a pad of silica gel using 10% MeOH/CH2Cl2. The collected fractions were concentrated in vacuo and purified by silica gel chromatography (80 g column; 2% MeOH/CH2Cl2 for 10 minutes then 3.5% MeOH/CH2Cl2 for 10 minutes). Fractions containing pure product were concentrated to yield 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine as a tan solid. Calcd for C16H13FN2O2: [M]+=284. Found: [M+H]+=285.

reactant | 4-(2-fluoro-4-nitrophenoxy)-7-methoxyquinoline | 2.9 mmol, 0.900 g | FC1=C(OC2=CC=NC3=CC(=CC=C23)OC)C=CC(=C1)[N+](=O)[O-] | C16H11FN2O4
reactant | HCl | 8.6 mmol, 1N, 8.6 ml | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
catalyst | Iron | 40 mmol, 2.2 g | [Fe] | Fe
solvent | methanol | 1297 mmol, 53 ml | CO | CH4O
product | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)N | C16H13FN2O2
